US07560561B2
A mixture of 800 mg of 4-(4-chloro-1-oxobutyl)-α,α-dimethylphenylacetic acid, prepared in accordance with Example 4, 800 mg of 4-α,α-diphenyl)piperidinemethanol, and 2.4 g of K2CO3 in 25 mL of toluene is stirred for 48 hours at room temperature. The mixture is concentrated in vacuo. The residue is treated with EtOAc, filtered, and concentrated to afford 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylphenylacetic acid.

reactant | 4-(4-chloro-1-oxobutyl)-α,α-dimethylphenylacetic acid | 800 mg | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17ClO3
reactant | piperidinemethanol | N1(CCCCC1)CO | C6H13NO
reactant | K2CO3 | 2.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylphenylacetic acid | OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H37NO4
